US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2,6-dichloropyridine-4-carboxylic acid chloride, there is obtained ethyl N-(2,6-dichloroisonicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 151°-152° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2,6-dichloropyridine-4-carboxylic acid chloride | ClC1=NC(=CC(=C1)C(=O)Cl)Cl | C6H2Cl3NO
product | ethyl N-(2,6-dichloroisonicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | ClC=1C=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C(N1)Cl | C23H19Cl2N3O2
